US06927228B2
(d) N-(4′-Formylbiphenyl-3-ylmethyl)-N-propylbenzamide
In a manner similar to that of Example 1(e), by reacting 1.4 g (4.2 mmol) of N-(3-bromo benzyl)-N-propylbenzamide with 940 mg (6.2 mmol) of 4-formylbenzene boronic acid, 780 mg (53%) of the expected product are obtained.

reactant | N-(3-bromo benzyl)-N-propylbenzamide | 4.2 mmol, 1.4 g | BrC=1C=C(CN(C(C2=CC=CC=C2)=O)CCC)C=CC1 | C17H18BrNO
reactant | 4-formylbenzene boronic acid | 6.2 mmol, 940 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
product | N-(4′-Formylbiphenyl-3-ylmethyl)-N-propylbenzamide | 780 mg, 53% | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC=CC=C1)=O)CCC | C24H23NO2
